US06358954B1
Phenylene diamine (32 grams) and glacial acetic acid (60 ml) were refluxed for 2 hours. Ice and KOH were added to bring the pH to 8.0, and the resulting light violet solid was filtered and collected. Recrystallization from benzene yielded 30 grams of 2-methyl benzimidazole as a light yellow solid having a melting point of 170° C. and total yield of 77%.

reactant | Phenylene diamine | 32 grams | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | KOH | [OH-].[K+]
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-methyl benzimidazole | 30 grams, yield of 77% | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
